US08664210B2
4,4-Dimethyl-17β-tert-butyldimethylsilyloxyandrost-5-en-3-one (4.0 g) was dissolved in toluene (235 ml). Ethylene glycol (9.3 ml) and PTSA (124 mg) were added and the mixture was refluxed for 7.5 h, removing water with a Dean-Stark trap. After cooling, water was added and the mixture was extracted with EtOAc. The organic phase was washed with 5% NaHCO3, brine then dried over Na2SO4 and evaporated to dryness to give 3,3-(ethylenedioxy)-4,4-dimethyl-17β-tert-butyldimethylsilyloxy-androst-5-ene (4.4 g, 100%) which was used without purification in the next step.

reactant | 4,4-Dimethyl-17β-tert-butyldimethylsilyloxyandrost-5-en-3-one | 4.0 g | CC1(C2=CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)O[Si](C)(C)C(C)(C)C)C | C27H46O2Si
reactant | Ethylene glycol | 9.3 ml | C(CO)O | C2H6O2
reactant | PTSA | 124 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 235 ml | C1(=CC=CC=C1)C | C7H8
product | 3,3-(ethylenedioxy)-4,4-dimethyl-17β-tert-butyldimethylsilyloxy-androst-5-ene | 4.4 g, 100% | C1OC2(C(C3=CC[C@H]4[C@@H]5CC[C@@H]([C@@]5(C)CC[C@@H]4[C@]3(CC2)C)O[Si](C)(C)C(C)(C)C)(C)C)OC1 | C29H50O3Si
